US05428037
To a solution of 4-trifluoromethylbenzamidine (45 g) was added sodium methoxide (11.9 g) as a solid in portions, followed by acetylaldehyde dimethylacetal (34.3 g). The mixture was refluxed overnight, then filtered, the solvent evaporated from the filtrate under reduced pressure, and the residue was partitioned between methylene chloride and water, the organic layer separated, washed with brine, dried over sodium sulfate, the solvent evaporated under reduced pressure, and the residue flash-chromatographed on silica gel, eluting with 20% ethyl acetate in heptane, to yield 13 g of 4-methyl-2-(4-trifluoromethylphenyl)pyrimidine m.p. 50° C.

reactant | 4-trifluoromethylbenzamidine | 45 g | FC(C1=CC=C(C(=N)N)C=C1)(F)F | C8H7F3N2
reactant | sodium methoxide | 11.9 g | C[O-].[Na+]
product | 4-methyl-2-(4-trifluoromethylphenyl)pyrimidine | 13 g | CC1=NC(=NC=C1)C1=CC=C(C=C1)C(F)(F)F | C12H9F3N2
